US04125729
Methyl α-(p-cyclohexylphenoxy)-α-[p-(p-chlorophenoxy)phenyl]-acetate
To a solution of 1.19 g of sodium methoxide and 4.4 g of p-cyclohexylphenol in 40 ml of methanol is added 50 mg of potassium iodide and 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The solution is refluxed overnight, cooled to room temperature and poured into 100 ml of water. The mixture is extracted with two 60 ml portions of ether and the combined extracts washed with two 50 ml portins of 5% sodium hydroxide, 50 ml of water and 50 ml of saturated NaCl. The extract is dried (MgSO4) and the solvent removed under vacuum. The residue is triturated with petroleum ether to give the product as white crystals, mp 122°-123.5° C.

reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | p-cyclohexylphenol | 4.4 g | C1(CCCCC1)C1=CC=C(C=C1)O | C12H16O
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | Methyl α-(p-cyclohexylphenoxy)-α-[p-(p-chlorophenoxy)phenyl]-acetate | C1(CCCCC1)C1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C1 | C27H27ClO4
